US07855073B2
Acridine Orange/Ethidium Bromide Staining
Apoptosis was determined morphologically after staining with acridine orange and ethidium bromide and counting viable cells by fluorescence microscopy. Cell density was adjusted to 1×106 cells/ml in buffer. Acridine orange and ethidium bromide (1:1) (v/v) mixed in PBS (phosphate buffer solution) to a final concentration of 100 μg/ml. 2 μl dye was mixed with 25 μl of cell suspension and cells were immediately checked.

reactant | acridine orange | CN(C)C=1C=CC=2C=C3C=CC(=CC3=NC2C1)N(C)C | C17H19N3
reactant | ethidium bromide | CC[N+]1=C2C=C(C=CC2=C3C=CC(=CC3=C1C=4C=CC=CC4)N)N.[Br-]
reactant | phosphate | P(=O)([O-])([O-])[O-]
product | Acridine Orange Ethidium Bromide | CN(C)C=1C=CC=2C=C3C=CC(=CC3=NC2C1)N(C)C.CC[N+]1=C2C=C(C=CC2=C3C=CC(=CC3=C1C=4C=CC=CC4)N)N.[Br-] | InChI=1S/C21H19N3.C17H19N3.BrH/c1-2-24-20-13-16(23)9-11-18(20)17-10-8-15(22)12-19(17)21(24)14-6-4-3-5-7-14;1-19(2)14-7-5-12-9-13-6-8-15(20(3)4)11-17(13)18-16(12)10-14;/h3-13,23H,2,22H2,1H3;5-11H,1-4H3;1H
